US07521446B2
4-Aminopiperidyl pyrrolidinyl ketone
(tert-Butoxy)-N-[1-(pyrrolidinylcarbonyl)(4-piperidyl)]carboxamide (2.0 g, 6.73 mmol) was dissolved in 40 mL dichloromethane and trifluoroacetic acid (15 mL, 201.94 mmol) were added. The reaction mixture was stirred for 4 hours. The solvent was evaporated to give the product as a light brown semi-solid, which was used directly for the next step. (2.09 g, 6.73 mmol, 100%).

reactant | (tert-Butoxy)-N-[1-(pyrrolidinylcarbonyl)(4-piperidyl)]carboxamide | 6.73 mmol, 2.0 g | C(C)(C)(C)OC(=O)NC1CCN(CC1)C(=O)N1CCCC1 | C15H27N3O3
reactant | trifluoroacetic acid | 201.94 mmol, 15 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 4-Aminopiperidyl pyrrolidinyl ketone | N1(CCCC1)C(=O)N1CCC(CC1)N | C10H19N3O
